US03962249
trans-1-[3-(m-Methylphenyl)propyl]-2,5-dimethyl-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of trans-1-[3-(m-methylphenyl)propyl]-2,5-dimethylpiperazine [b.p. 125° - 132°C (4 mmHg), dipicrate, m.p. 245° - 248°C], 2-furoyl chloride and benzene.

reactant | trans-1-[3-(m-methylphenyl)propyl]-2,5-dimethylpiperazine | CC=1C=C(C=CC1)CCCN1[C@H](CN[C@@H](C1)C)C | C16H26N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trans-1-[3-(m-Methylphenyl)propyl]-2,5-dimethyl-4-(2-furoyl)piperazine hydrochloride | Cl.CC=1C=C(C=CC1)CCCN1[C@H](CN([C@@H](C1)C)C(=O)C=1OC=CC1)C | InChI=1S/C21H28N2O2.ClH/c1-16-7-4-8-19(13-16)9-5-11-22-14-18(3)23(15-17(22)2)21(24)20-10-6-12-25-20;/h4,6-8,10,12-13,17-18H,5,9,11,14-15H2,1-3H3;1H/t17-,18+;/m0./s1
